US04393059
A solution of diazomethane in diethyl ether was added little by little to a solution of 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylate (syn-isomer: 0.3 g.) in methanol (30 ml.) until the reaction terminated. The resultant solution was concentrated under reduced pressure, and the residue was pulverized with diethyl ether, collected by filtration and dried to give 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn-isomer: 0.26 g.). This product was identified with the authentic sample.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylate | 0.3 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NO | C19H16N6O7S2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 30 ml | CO | CH4O
product | 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 0.26 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C20H18N6O7S2
